US09145380B2
a) (E)-5-Chloro-2-(2-(4-chlorophenyl)vinylsulfonamido)-4-fluorobenzene sulfonamide
The title compound was synthesized as described for 226 a) in 61% yield, starting from 2-amino-5-chloro-4-fluorobenzenesulfonamide and (E)-2-(4-chlorophenyl)ethenesulfonyl chloride.

reactant | 2-amino-5-chloro-4-fluorobenzenesulfonamide | NC1=C(C=C(C(=C1)F)Cl)S(=O)(=O)N | C6H6ClFN2O2S
reactant | (E)-2-(4-chlorophenyl)ethenesulfonyl chloride | ClC1=CC=C(C=C1)/C=C/S(=O)(=O)Cl | C8H6Cl2O2S
product | (E)-5-Chloro-2-(2-(4-chlorophenyl)vinylsulfonamido)-4-fluorobenzene sulfonamide | 61% yield | ClC=1C(=CC(=C(C1)S(=O)(=O)N)NS(=O)(=O)\C=C\C1=CC=C(C=C1)Cl)F | C14H11Cl2FN2O4S2
